US04839348
A solution of ethyl 2-(m-trifluoromethylphenyl-phenylmethyl)-4-chloro-3-oxobutanoate (8 g) and ethyl 3-aminocrotonate (3.4 g) in EtOH (80 ml) is heated to reflux temperature for 10 minutes, then it is cooled at room temperature and after usual work-up the residue is purified by column-chromatography on silica-gel (300 g, eluent Et2O/isopropylether 50/50) to give 6 g of 2-amino-7-chloro-3,5-dicarboethoxy-4-(m-trifluoromethylphenyl)-6-oxo-2-heptene as an oil.

reactant | ethyl 2-(m-trifluoromethylphenyl-phenylmethyl)-4-chloro-3-oxobutanoate | 8 g | FC(C=1C=C(C=CC1)C(C(C(=O)OCC)C(CCl)=O)C1=CC=CC=C1)(F)F | C20H18ClF3O3
reactant | ethyl 3-aminocrotonate | 3.4 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | EtOH | 80 ml | CCO | C2H6O
product | 2-amino-7-chloro-3,5-dicarboethoxy-4-(m-trifluoromethylphenyl)-6-oxo-2-heptene | 6 g | NC(C)=C(C(C(C(CCl)=O)C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C20H23ClF3NO5
